US07709471B2
6-amino-N-(1-methyl-4-piperidyl)pyridine-3-carboxamide
6-Aminonicotinic acid (Aldrich; 2 g, 14.48 mmol) and 4-amino-1-methylpiperidine (Fluorochem; 1.82 g, 15.92 g) were suspended in DMF (20 mL), DIPEA (7.5 mL, 43.44 mmol) and HATU (6.05 g, 15.92 mmol) were added and the reaction stirred at ambient temperature for 18 hrs. The solvent was evaporated and the residues stirred with water (50 mL for 1 hr filtered, acidified with 2M aq HCl and added to a 50 g SCX-2 column pre-wet with MeOH (2 column volumes). Flushed with MeOH (2 column volumes) then the crude product eluted with 2M ammonia in MeOH and evaporated. The residue was dissolved in DCM with a little MeOH to help solubility and purified on silica eluting with a gradient of 10-20% 2M ammonia in MeOH/DCM. Fractions containing product combined and evaporated to give the title compound as a cream solid (1.75 g, 52%)

reactant | 6-Aminonicotinic acid | 14.48 mmol, 2 g | NC1=NC=C(C(=O)O)C=C1 | C6H6N2O2
reactant | 4-amino-1-methylpiperidine | 1.82 g | NC1CCN(CC1)C | C6H14N2
reactant | DIPEA | 43.44 mmol, 7.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 15.92 mmol, 6.05 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 6-amino-N-(1-methyl-4-piperidyl)pyridine-3-carboxamide | 1.75 g, 52% | NC1=CC=C(C=N1)C(=O)NC1CCN(CC1)C | C12H18N4O
